US09353075B2
Step 2. Preparation of ethyl (2S*)-2-(tert-butoxy-carbonylamino)-4,4-dimethyl-3-oxo-pentanoate
In a pear flask, at rt, to a solution of (2S*)-2-(dibenzylamino)-4,4-dimethyl-3-oxo-pentanoate (2.5 g, 6.8 mmol) in EtOH (150 ml), di-tert-butyl dicarbonate (2.96 g, 13.6 mmol) was added. The resulting solution was divided into two aliquots and each passed through the H-Cube® hydrogenator flow reactor, using 10% Pd(OH)2/C as catalyst [flow:1.0 mL/min, P=1.0 bar, T=70° C.]. The aliquots were combined and, after evaporation of the solvent, the crude product was purified by column chromatography using a Teledyne ISCO apparatus, eluting with Cy:AcOEt (from 90:10 to 50:50) to afford the title product (1.24 g, 64%), as a colorless oil. MS (ESI) m/z: 286 [M−H]−. 1H NMR (DMSO-d6) δ 1.15 (s, 9H), 1.18 (t, J=7.10 Hz, 3H), 1.39 (s, 9H), 4.12 (q, J=7.09 Hz, 2H), 5.32 (d, J=8.75 Hz, 1H), 7.64 (d, J=8.72 Hz, 1H).

reactant | (2S*)-2-(dibenzylamino)-4,4-dimethyl-3-oxo-pentanoate | 6.8 mmol, 2.5 g | C(C1=CC=CC=C1)N([C@H](C(=O)[O-])C(C(C)(C)C)=O)CC1=CC=CC=C1
reactant | di-tert-butyl dicarbonate | 13.6 mmol, 2.96 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | EtOH | 150 ml | CCO | C2H6O
catalyst | Pd(OH)2/C | [OH-].[OH-].[Pd+2]
product | ethyl (2S*)-2-(tert-butoxy-carbonylamino)-4,4-dimethyl-3-oxo-pentanoate | 1.24 g, 64% | C(C)(C)(C)OC(=O)N[C@H](C(=O)OCC)C(C(C)(C)C)=O | C14H25NO5
